* C:\Users\Mark.Smith\Dropbox\personal\SurfnCircuits\Analog15TimerForBWMTrunkLight\LTSims\Analog15TimerForBMWTrunkLight.asc
R4 CAP 0 9MEG
C§Bat Vin CAP 100µ Rser=.05
V2 N001 0 {Car_battery} Rser=.1
V3 N002 0 PULSE(0 5 10u 5n 5n 2000 2400) Rser=10
R6 Vin 0 100k
S1 Vin N001 N002 0 MySwitch2
R§LAMP1 Vin LAMP 14
M1 Vin 0 CAP CAP 2N7002
C1 Vin 0 .22µ
R1 LAMP Vg2 1k
R5 Vg2 0 1MEG
C2 Vg2 0 .1µ
C4 CAP 0 .1µ
M4 LAMP CAP 0 0 FDS6912
R2 N003 CAP 10k
M2 N003 Vg2 0 0 2N7002
D1 0 CAP UDZV15B
D2 0 Vg2 UDZV15B
.model D D
.lib C:\Users\Mark.Smith\Documents\LTCspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Mark.Smith\Documents\LTCspice\lib\cmp\standard.mos
.param Tdel = 10n HYST = .0000001  Car_battery = 12
.model MySwitch2 SW(Ron=.01 Roff=10Meg Vt=2.5 Vh=.05)
.tran 0 4500 0 10m
.step param Car_battery list 12v 40v -12v
* Step load is Nominal Voltage, Load Dump Voltage, and Reverse Voltage
* CAR Power Switch to LAMP Circuit
.backanno
.end
